US07365069B2
N-(4-Methylphenyl)-4-(methylthio)benzenecarboximidamide
The title compound was prepared from 4-methylthiobenzonitrile (2.50 g, 16.78 mmol) and 4-methylaniline (1.789 g, 16.78 mmol) by following the procedure described in preparation 1, (2.05 g, 47.6%, purity 79% by HPLC), mp 143-145° C. 1H-NMR (CDCl3):δ 2.33 (s, 3H), 2.52 (s, 3H), 4.75 (bs, 2H, D2O exchangeable), 6.87-6.89 (d, 2H), 7.14-7.16 (d, 2H), 7.27-7.29 (d, 2H), 7.7-7.79 (d, 2H). MS m/z: 257.1(M+).

reactant | 4-methylthiobenzonitrile | 16.78 mmol, 2.50 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | 4-methylaniline | 16.78 mmol, 1.789 g | CC1=CC=C(N)C=C1 | C7H9N
product | N-(4-Methylphenyl)-4-(methylthio)benzenecarboximidamide | CC1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C15H16N2S
